datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([N+:61]2=[C-:10][N:71](C3=CC=CC=C3)[C:63](C3=CC=CC=C3)=[N:62]2)C=C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10]2=[N+:61](C3=CC=CC=C3)[N:62]=[C:63](C3=CC=CC=C3)[N:71]2C2=CC=CC=C2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([CH:11]([H:10])[C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[CH:11][C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[CH:63]=[CH:64]1.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])N2N=N[N:35]=[C:34]21 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC[O:82][C:71](/[CH:10]=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:72].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>CC[O:82][C:71]([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]2=[N:35]O[N:42]=[C:41]12)=[O:72] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.CO[C:74]1=[CH:73][CH:72]=[C:71]([CH:11]([H:10])[CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1>>C1=CC=C([S:32]([CH-:21][CH2:20][H:10])(=[O:33])=[O:34])C=C1.CO[C:74]1=[CH:73][CH:72]=[C:71]([CH+:11][CH2:62][Sn:63](C)(C)C)[CH:82]=[CH:83]1 10,11=10,20;20,21=21"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.[CH:10](=[C:11]=[N-:12])[C:61]#[N:62]>>C1C[O:33][C:22]([O-:23])=[CH:21][CH:20]1[CH:10]([C:11]#[N:12])[C:61]#[N:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:12]([C:11]1=[CH:10]CCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1.F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34]>>C[N+:12](=[C:11]1CCC[CH:10]1[CH2:20][CH-:21][S:32](F)(=[O:33])=[O:34])[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1 10,11=10,20;12=11,12;20,21=21"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62]>>CC[O:82][C:61]([CH:10]([C:20]1([O-:21])CCC2(CC1)OCCO2)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62] 10=20;20,21=21"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].CC1=[N:10]CCC1>>CC1=[N+:10]([CH:20]([CH:21]=[C:22](C(C)(C)C)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)CCC1 10=20;20,21=21,22;22,23=23"
C1C[S:31][CH+:20][S:41]C1.[NH3:10]>>C1C[S:31][CH:20]([NH3+:10])[S:41]C1 10=20
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C.C[N+:12]1=[C:11]([C:72]2=[CH:73][C:74](Cl)=[CH:75][CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[Si:61](C)(C)[CH:10]=[N+:11]=[N-:12]>>CC[O:33][C:22](=[CH:21][CH2:20][CH:10]([N+:11]#[N:12])[Si:61](C)(C)C)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Br[C:12]1=[C:13]([NH2:14])[C:62](Br)=[CH:63][N:10]=[CH:11]1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>Br[C:12]1=[CH:11][N:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:63]=[C:62](Br)[C:13]1=[NH2+:14] 10,11=10,20;12,13=11,12;14=13,14"
"CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62]/[CH:11]=[CH:10]/C)OC1(C)C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62][CH+:11][CH:10](C)[CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)OC1(C)C 10,11=10,20"
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].[O-:10][C:61]1=[CH:62][CH:63]=[C:64]([C:75]#[N:66])[CH:73]=[CH:72]1>>CC(C)(C)[O:33][C:22](=[CH:21][CH2:20][O:10][C:61]1=[CH:62][CH:63]=[C:64]([C:75]#[N:66])[CH:73]=[CH:72]1)[O-:23] 10=20;20,21=21,22;22,23=23"
